US04334010
A mixture of 4.0 parts of 5-phenyl-1,3-cyclohexanedione and 120 parts by volume of a 5% benzene solution of 2-chlorotetrahydrothiphene was refluxed by heating while stirring. After cooling to room temperature, the reaction mixture was washed with 40 parts by volume of water and then treated three times with 30 parts by volume of a 5% aqueous solution of sodium hydroxide. The aqueous layer was collected and washed with 30 parts by volume of ether. While maintaining the temperature of the solution below 10° C., the pH of the solution was controlled between 4 and 5 with the addition of 6 N hydrochloric acid. The light orange colored crystals thus deposited were collected and purified by passing through a column containing a silica gel using a solvent mixture of chloroform and benzene (5:1) as a spreading agent to obtain 2-(2-tetrahydrothienyl)-3-hydroxy-5-phenyl-2-cyclohexen-1-one in a form of colorless fine crystals. The melting point was 141° to 142° C. The yield was 2.4 parts.

reactant | 5-phenyl-1,3-cyclohexanedione | C1(=CC=CC=C1)C1CC(CC(C1)=O)=O | C12H12O2
reactant | 2-chlorotetrahydrothiphene | ClC1SCCC1 | C4H7ClS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(2-tetrahydrothienyl)-3-hydroxy-5-phenyl-2-cyclohexen-1-one | S1C(CCC1)C=1C(CC(CC1O)C1=CC=CC=C1)=O | C16H18O2S
